US07482350B2
Step 4. Preparation of (1S)-(2-Chloro-4-methoxy-6-methyl-pyrimidin-5-ylmethyl)methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine
To a flask containing (1S)-(2,4-dichloro-6-methyl-pyrimidin-5-ylmethyl)methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine (6.41 g, 19.06 mmol) is added MeOH (100 mL) and the solution is cooled to 0° C. using an ice bath. NaOMe (0.5 M, 38 mL) is added via addition funnel over 20 min. Once addition is complete, the ice bath is removed and the reaction is allowed to proceed overnight warming to room temperature. HOAc (2.0 mL) is added and the reaction mixture is allowed to stir for 10 min, followed by concentration at reduced pressure. The resulting oil is dissolved in EtOAc (100 mL) and washed sat. NaHCO3 (100 mL), brine (100 mL) and dried over Na2SO4. Flash chromatography on SiO2 using first CHCl3 followed by 20:1 hexanes:Et2O affords the title compound as a colorless oil. [mass expected (331.84); mass found (331.28)]

reactant | (1S)-(2,4-dichloro-6-methyl-pyrimidin-5-ylmethyl)methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine | 19.06 mmol, 6.41 g | ClC1=NC(=C(C(=N1)Cl)CN([C@H]1CCCC2=CC=CC=C12)C)C | C17H19Cl2N3
reactant | NaOMe | 0.5 M, 38 mL | C[O-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | (1S)-(2-Chloro-4-methoxy-6-methyl-pyrimidin-5-ylmethyl)methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine | ClC1=NC(=C(C(=N1)OC)CN([C@H]1CCCC2=CC=CC=C12)C)C | C18H22ClN3O
